US08791132B2
6-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-one (400 mg, 0.99 mmol) was dissolved in MeOH (30 mL). Sodium borohydride (263 mg, 6.9 mmol) was added under nitrogen. The reaction mixture was heated at 60° C. for 8 h. After consumption of starting material, the reaction mixture was concentrated and 2N HCl was added (pH-acidic) and extracted with DCM (2×200 mL) for removing impurities. The aqueous layer was basified with saturated bicarbonate and extracted with DCM. The organic layer was dried over anhydrous sodium sulfate and concentrated to obtain 350 mg of 6-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.44 (d, 2H), 7.15 (s, 1H), 7.0 (d, 1H), 6.94 (d, 1H), 6.92 (d, 2H),4.25 (dd, 1H), 4.0 (dd, 1H), 3.64 (d, 1H), 3.51 (m, 2H), 2.88 (dd, 1H), 2.73 (t, 1H), 2.58 (m, 1H), 2.48 (s, 3H), 2.42 (s, 3H), 2.2 (m, 1H), 2.02 (t, 1H), 1.71 (t, 2H), 0.837 s (9H). Separation by chiral HPLC provided diastereomers II-227a-b.

reactant | 6-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-one | 0.99 mmol, 400 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(C(C)(C)C)=O)C2=CC=NC=C2)CC1 | C26H33N3O
reactant | Sodium borohydride | 6.9 mmol, 263 mg | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 6-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-ol | 350 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(C(C)(C)C)O)C2=CC=NC=C2)CC1 | C26H35N3O
